US08110573B2
To a mixture of 4-amino-1H-pyrazole-3-carboxylic acid methyl ester (50.0 g, 355 mmol) in dioxane (500 mL) was added 2M aqueous NaOH solution (213 mL, 426 mmol), the mixture heated to 50° C. and stirred for 5 h. To this mixture was then added (BOC)2O (81.4 g, 373 mmol), using a dioxane rinse (100 mL) and the mixture heated at 50° C. for a further 5 h, then stirred at ambient for 14 h. The dioxane was removed in vacuo and water (1 L) added. The mixture was taken to pH˜2 using conc. aqueous HCl solution and the solid formed collected by filtration and dried on the filter. The solid was dried further through azeotrope with toluene (×3) and in the vacuum oven to give 4-tert-butoxycarbonylamino-1H-pyrazole-3-carboxylic acid (70.0 g, 87%) as a violet solid.

reactant | 4-amino-1H-pyrazole-3-carboxylic acid methyl ester | 355 mmol, 50.0 g | COC(=O)C1=NNC=C1N | C5H7N3O2
reactant | NaOH | 426 mmol, 2M, 213 mL | [OH-].[Na+]
reactant | (BOC)2O | 373 mmol, 81.4 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 500 mL | O1CCOCC1 | C4H8O2
product | 4-tert-butoxycarbonylamino-1H-pyrazole-3-carboxylic acid | 70.0 g, 87% | C(C)(C)(C)OC(=O)NC=1C(=NNC1)C(=O)O | C9H13N3O4
